US04910201
Synthesis of 4-chloro-2-(4-chlorophenyl)-5-{(5-methyl-2-thienyl)-methoxyloxy}-3(2H)-pyridazinone, (Compound No. 323)
The procedures in Synthesis Example 11 were repeated by using 2.0 g (7.3 m mol) of 2-(4-chlorophenyl)-4,5-dichloro-3(2H)-pyridazinone, 1.0 g (7.8 m mol) of 5-methyl-2-thiophene methanol, 0.4 g of potassium hydroxide and 80 ml of N,N-dimethylformamide to give 2.0 g of the intended product.

reactant | 2-(4-chlorophenyl)-4,5-dichloro-3(2H)-pyridazinone | 2.0 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)Cl)Cl | C10H5Cl3N2O
reactant | 5-methyl-2-thiophene methanol | 1.0 g | CC1=CC=C(S1)CO | C6H8OS
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-(4-chlorophenyl)-5-{(5-methyl-2-thienyl)-methoxyloxy}-3(2H)-pyridazinone | 2.0 g | ClC=1C(N(N=CC1OOCC=1SC(=CC1)C)C1=CC=C(C=C1)Cl)=O | C16H12Cl2N2O3S
